US09303023B2
To an ice-cooled solution of 4,6-dichloro-5-methyl-2-(methylthio)pyrimidine (607 mg, 2.903 mmol) in MeOH (7 mL), NaOMe (1.25 g, 23.23 mmol) was added portionwise. The brown suspension was slowly allowed to reach rt, stirred at rt for 18 h and refluxed (85° C.) for 3 h. Due to the fact that the reaction was not completed, 0.4 eq. of NaOMe was added and the dark yellow suspension was refluxed (85° C.) for another 18 h. The reaction mixture was allowed to reach rt, then the solvent was removed and the residue was redissolved in EtOAc. The org. layer was washed with water, the aq. layer was reextracted with EtOAc (100 mL) and the combined org. layers were washed with brine, dried (MgSO4), filtered and the solvent was removed under reduced pressure. Purification by FC (EtOAc/hept 3:97) yielded 4,6-dimethoxy-5-methyl-2-(methylthio)pyrimidine as a solid. LC-MS conditions A: tR=0.93 min, [M+H]+=201.12.

reactant | 4,6-dichloro-5-methyl-2-(methylthio)pyrimidine | 2.903 mmol, 607 mg | ClC1=NC(=NC(=C1C)Cl)SC | C6H6Cl2N2S
reactant | NaOMe | 23.23 mmol, 1.25 g | C[O-].[Na+]
reactant | NaOMe | 0.4 eq. | C[O-].[Na+]
reactant | MeOH | 7 mL | CO | CH4O
product | 4,6-dimethoxy-5-methyl-2-(methylthio)pyrimidine | COC1=NC(=NC(=C1C)OC)SC | C8H12N2O2S
